US04552888
A reaction mixture was prepared containing the following ingredients: 33 g. of L-ascorbic acid, 10.2 g. of sodium methylate, 34.5 g. of n-butyl iodide and 250 ml. of DMSO. The reaction mixture was stirred at ambient temperature and the progress of the reaction monitored by thin layer chromatography. After 24 hours, the reaction mixture was added to 500 ml. of ethyl acetate. 3-O-n-Butyl-L-ascorbic acid formed in the above reaction precipitated and was separated by filtration. Further precipitation was caused by adding 300 ml. of toluene to the filtrate. These crystals were also collected and the combined crystals dissolved in 500 ml. of methanol. (weight=about 20 g.) 45 g. of silica gel was added to this solution. The solution was evaporated to dryness in vacuo.

reactant | L-ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | sodium methylate | C[O-].[Na+]
reactant | n-butyl iodide | C(CCC)I | C4H9I
reactant | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-O-n-Butyl-L-ascorbic acid | C(CCC)OC1=C(C(=O)O[C@@H]1[C@@H](O)CO)O | C10H16O6
